US07144899B2
A suspension of 2-amino-5-chloro-benzoic acid (5.0 g, 0.029 mol), trimethyl orthoformate (9.5 mL, 0.087 mol) and sodium azide (5.6 g, 0.087 mol) in glacial acetic acid (105 mL) was stirred at room temperature for 2 h. Filtration and concentration from toluene gave 5-chloro-2-(1H-tetraazol-1-yl)benzoic acid (4.0 g, 62%); 1H NMR (400 MHz, CD3OD): δ 9.47 (s, 1H), 8.16 (d, J=2.5 Hz, 1H), 7.83 (dd, J=2.5, 8.5 Hz, 1H), 7.62 (d, J=8.5 Hz, 1H).

reactant | 2-amino-5-chloro-benzoic acid | 0.029 mol, 5.0 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | trimethyl orthoformate | 0.087 mol, 9.5 mL | C(OC)(OC)OC | C4H10O3
reactant | sodium azide | 0.087 mol, 5.6 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 105 mL | C(C)(=O)O | C2H4O2
product | 5-chloro-2-(1H-tetraazol-1-yl)benzoic acid | 4.0 g, 62% | ClC=1C=CC(=C(C(=O)O)C1)N1N=NN=C1 | C8H5ClN4O2
